US08877782B2
f) 6-(5-Methyl-3-p-tolyl-isoxazol-4-ylmethoxy)-N-(tetrahydro-pyran-4-yl)-nicotinamide
As described for example 249f, 6-(5-methyl-3-p-tolyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester (250 mg, 0.73 mmol) was converted, instead of 6-(5-methyl-3-m-tolyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester, to the title compound (260 mg, 84%) which was obtained as a white solid. MS: m/e=408.4 [M+H]+.

reactant | 6-(5-methyl-3-p-tolyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester | 0.73 mmol, 250 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=CC=C(C=C1)C)=O | C19H18N2O4
reactant | 6-(5-methyl-3-m-tolyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C=1C=C(C=CC1)C)=O | C19H18N2O4
product | 6-(5-Methyl-3-p-tolyl-isoxazol-4-ylmethoxy)-N-(tetrahydro-pyran-4-yl)-nicotinamide | 260 mg, 84% | CC1=C(C(=NO1)C1=CC=C(C=C1)C)COC1=NC=C(C(=O)NC2CCOCC2)C=C1 | C23H25N3O4
